US07820654B2
Step (i). Synthesis of (2-ethylsulfanyl-6-phenylpyrimidin-4-yl)methylamine
A mixture of compound 4-chloro-2-ethylsulfanyl-6-phenyl-pyrimidine (1 g, 4 mmol) and aqueous methylamine (0.74 g, 24 mmol) in methanol (20 mL) was stirred at refluxing temperature for 16 hours under nitrogen atmosphere. The reaction mixture was then cooled to temperature in the range of 20-40° C. The solid separated was filtered off and dried under reduced pressure. It was finally titrated with petroleum-ether to afford the title compound as an off white solid.

reactant | 4-chloro-2-ethylsulfanyl-6-phenyl-pyrimidine | 4 mmol, 1 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)SCC | C12H11ClN2S
reactant | methylamine | 24 mmol, 0.74 g | CN | CH5N
solvent | methanol | 20 mL | CO | CH4O
product | (2-ethylsulfanyl-6-phenylpyrimidin-4-yl)methylamine | C(C)SC1=NC(=CC(=N1)CN)C1=CC=CC=C1 | C13H15N3S
